US04009170
A mixture of 1-amino-3,4-dihydroisoquinoline (VI: R=R'=Y=Y'=Z=Z'=H) hydrochloride (m.p. 133°-134° C., 0.5 g.), prepared from 1-ethoxy-3,4-dihydroisoquinoline and ammonium chloride, sodium carbonate (0.38 g.), hydrazine (0.41 g.) and ethanol (15 ml.) was stirred (at 25° C.). The mixture was filtered. An ether solution of the crystals which separated from the filtrate on chilling was washed with water, dried and filtered. Concentration of the filtrate and crystallization of the residue from ether afforded 1-hydrazino-3,4-dihydroisoquinoline (0.44 g.).

reactant | 1-amino-3,4-dihydroisoquinoline | NC1=NCCC2=CC=CC=C12 | C9H10N2
reactant | hydrochloride | 0.5 g | Cl | ClH
reactant | 1-ethoxy-3,4-dihydroisoquinoline | C(C)OC1=NCCC2=CC=CC=C12 | C11H13NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium carbonate | 0.38 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrazine | 0.41 g | NN | H4N2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-hydrazino-3,4-dihydroisoquinoline | 0.44 g | N(N)C1=NCCC2=CC=CC=C12 | C9H11N3
